US04830660
Synthesis of 5-amino-4-ethoxycarbonyl-1-(thiazol-2-yl)imidazole
Following the procedure described in Reference Example 7, the desired compound was synthesized using ethyl α-aminocyanoacetate, ethyl orthoformate and 2-aminothiazole as raw materials. m.p.: 120° to 123° C.

reactant | ethyl α-aminocyanoacetate | NC(C(=O)OCC)C#N | C5H8N2O2
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
product | 5-amino-4-ethoxycarbonyl-1-(thiazol-2-yl)imidazole | NC1=C(N=CN1C=1SC=CN1)C(=O)OCC | C9H10N4O2S
